US07465730B2
Utilizing the general procedure outlined in Example 48, 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (60 mg) and hydrazine (50 μL) reacted to give 6-(4-Ethoxy-2-methoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as light yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.06 (d, 1H), 6.66 (m, 2H), 4.05 (q, 2H), 3.86 (s, 3H), 2.84 (s, 6H), 2.41 (s, 6H), 1.25 (t, 3H); MS (ESI) 326 (M+H)+

reactant | 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 60 mg | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OCC)OC)C)C(C)=O | C19H23NO4
reactant | hydrazine | 50 μL | NN | H4N2
product | 6-(4-Ethoxy-2-methoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine | C(C)OC1=CC(=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)OC | C19H23N3O2
